US08703758B2
F) tert-butyl 4-(3-aminobutyl)piperidine-1-carboxylate
A suspension of tert-butyl 4-(3-azidobutyl)piperidine-1-carboxylate (3.81 g) and 5% palladium/carbon (containing water (50%), 800 mg) in methanol (100 mL) was stirred at room temperature for 15 hr under a hydrogen atmosphere. The reaction mixture was filtered, and the filtrate was concentrated under reduced pressure to give the title compound (3.59 g).

reactant | tert-butyl 4-(3-azidobutyl)piperidine-1-carboxylate | 3.81 g | N(=[N+]=[N-])C(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H26N4O2
solvent | methanol | 100 mL | CO | CH4O
catalyst | palladium/carbon | 800 mg | [Pd] | Pd
product | tert-butyl 4-(3-aminobutyl)piperidine-1-carboxylate | 3.59 g | NC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H28N2O2
